US05866724
Into a 500 ml four-necked flask were charged 40.45 g of above-obtained 2,4-bis(4-hydroxy-2,5-dimethylbenzyl)-3,5,6-trimethylphenol having a purity of 99.38%, 14.4 g of sodium hydroxide, 144 g of water and 14.4 g oftetrahydrofuran and they were completely dissolved. While stirring at 40° C., 48.69 g of 37% formaldehyde was added dropwise thereto over1 hour, and the reaction was conducted for 3 more hours. After completion of the reaction, 18.02 g of 90% aqueous acetic acid solution was added forneutralization and then the mixture was cooled to 25° C. The resulting mixture was filtered and the filtered product was dissolved in amixed solvent consisting of 100 g of ethyl acetate and 14.40 g of tetrahydrofurane. The resulting solution was washed with water and the oilphase was concentrated. To the concentrated product, 100 g of toluene was added, and the mixture was cooled to 20° C., and then filtered. Thefilter cake was rinsed with 100 g of toluene and dried a whole day and night under reduced pressure at 45° C. to obtain 36.8 g of 2,4-bis(4-hydroxy-3-hydroxymethyl-2,5-dimethylbenzyl)-3,5,6-trimethylphenol.

reactant | 2,4-bis(4-hydroxy-2,5-dimethylbenzyl)-3,5,6-trimethylphenol | 40.45 g | OC1=CC(=C(CC2=C(C(=C(C(=C2C)CC2=C(C=C(C(=C2)C)O)C)C)C)O)C=C1C)C | C27H32O3
reactant | sodium hydroxide | 14.4 g | [OH-].[Na+]
reactant | water | 144 g | O | H2O
reactant | formaldehyde | 48.69 g | C=O | CH2O
reactant | acetic acid | 18.02 g | C(C)(=O)O | C2H4O2
product | 2,4-bis(4-hydroxy-3-hydroxymethyl-2,5-dimethylbenzyl)-3,5,6-trimethylphenol | 36.8 g | OC1=C(C(=C(CC2=C(C(=C(C(=C2C)CC2=C(C(=C(C(=C2)C)O)CO)C)C)C)O)C=C1C)C)CO | C29H36O5
